US06310208B1
A mixture of 0.29 g (1.32 mmol) of cis-8-fluoro-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one, 0.12 ml (1.39 mmol) of bromopropane, 0.2 g (1.45 mmol) of potassium carbonate and 20 ml of anhydrous DMF was heated to 125° C. for 1 hour. Subsequently, the mixture was poured into 3 ml of water and extracted once with 50 ml of ethyl acetate. The organic phase was washed once with 40 ml of saturated sodium chloride solution, dried (MgSO4) and concentrated in a vacuum. The crude product obtained was purified by column chromatography on silica gel (methylene chloride/methanol/NH4OH 9:1:0.2). There were obtained 220 mg (63%) of cis-8-fluoro-2-propyl-1,3,4,4a, 5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one as a yellow oil, which was converted with MeOH/HCl into the hydrochloride with m.p. >220°.

reactant | cis-8-fluoro-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one | 1.32 mmol, 0.29 g | FC=1C=CC2=C(C(C[C@H]3CCNC[C@@H]23)=O)C1 | C13H14FNO
reactant | bromopropane | 1.39 mmol, 0.12 ml | BrCCC | C3H7Br
reactant | potassium carbonate | 1.45 mmol, 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 3 ml | O | H2O
product | cis-8-fluoro-2-propyl-1,3,4,4a, 5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one | 220 mg, 63% | FC=1C=CC2=C(C(C[C@H]3CCN(C[C@@H]23)CCC)=O)C1 | C16H20FNO
